### PR TITLE
Veir/IR: add OperationPtr.setAttributes related preservation lemmas

### PR DESCRIPTION
**Pull request by GZGavinZhao**
Needed for #222 which uses `OperationPtr.setAttributes_fieldsInBounds`.

`grind` couldn't really do much with `OperationPtr.setAttributes` without these changes.

### CODE REVIEW

File: Veir/IR/GetSet.lean [hunk 1]
```diff
@@ -1390,6 +1390,137 @@ theorem OpOperandPtrPtr.get!_OperationPtr_setProperties {opOperandPtr : OpOperan
...
+    (operation.get! (OperationPtr.setAttributes operation' ctx newAttrs opIn)).parent =
+    (operation.get! ctx).parent := by
+  grind
+
+@[simp, grind =]
+theorem OperationPtr.opType!_OperationPtr_setAttributes {operation : OperationPtr} :
+    (operation.get! (OperationPtr.setAttributes operation' ctx newAttrs opIn)).opType =
+    (operation.get! ctx).opType := by
+  grind
+
```
Comment (math-fehr) [inline Veir/IR/GetSet.lean:1433]: Can you add the `OperationPtr.attrs!` version here?

File: Veir/IR/GetSet.lean [hunk 2]
```diff
@@ -1390,6 +1390,137 @@ theorem OpOperandPtrPtr.get!_OperationPtr_setProperties {opOperandPtr : OpOperan
...
+@[simp, grind =]
```
Comment (math-fehr) [inline Veir/IR/GetSet.lean:1449]: Same for `OperationPtr.getProperties!` here

**Review by math-fehr — COMMENTED** [review]
Hey, thanks a lot!
There is just 2 lemmas missing (we try to have them all), and then it's good to merge!

**Comment by math-fehr** [comment]
Perfect, thanks a lot!
